US04714492
1.69 g of 1,6-dimethyl-2-phenyl-4-oxonicotinic acid is suspended in approximately 50 ml of methanol. NaOH pellets (0.305 gms) are added with stirring. After both the acid and the sodium hydroxide dissolve the solution is evaporated to dryness in vacuo. Sodium 1,6-dimethyl-2-phenyl-4-oxonicotinate is then isolated as a glossy, somewhat hydroscopic solid. Yield=1.6 g.

reactant | 1,6-dimethyl-2-phenyl-4-oxonicotinic acid | 1.69 g | CN1C(=C(C(=O)O)C(C=C1C)=O)C1=CC=CC=C1 | C14H13NO3
reactant | NaOH | [OH-].[Na+]
solvent | methanol | approximately 50 ml | CO | CH4O
product | Sodium 1,6-dimethyl-2-phenyl-4-oxonicotinate | CN1C(=C(C(=O)[O-])C(C=C1C)=O)C1=CC=CC=C1.[Na+] | InChI=1S/C14H13NO3.Na/c1-9-8-11(16)12(14(17)18)13(15(9)2)10-6-4-3-5-7-10;/h3-8H,1-2H3,(H,17,18);/q;+1/p-1
